US07776867B2
A stirred solution of 2-amino-3-cyano-5-phenylfuran (9.18 g, 49.8 mmol) in formamide was heated to 180° C. After 3 hours, the solution was cooled to room temperature, poured into water (250 mL), and the resulting mixture filtered to afford 4-amino-6-phenylfuro-[2,3-d]pyrimidine (11.0 g, crude) as a brown solid. The solid was dissolved in acetic acid (150 mL) and bromine (6 mL, 18.7 g, 117 mmol) was added. The reaction mixture was then heated to 100° C. for 2 hours, cooled, and poured into sodium thiosulfate solution (250 mL, 0.5 N aq). 4-Amino-5-bromo-6-phenylfuro-[2,3-d]pyrimidine was then filtered off as a yellow solid (13.25 g, crude). A portion of this aminopyrimidine (4.48 g, crude, up to 15.4 mmol) was then dissolved in MeCN. Di-tert-butyl dicarbonate (7.00 g, 32.1 mmol) was added, followed by 4-(N,N)-dimethylaminopyridine (2.00 g, 16.4 mmol). The resulting solution was allowed to stir at room temperature for 3 days, and then concentrated in vacuo to a brown oil. Flash column chromatography (SiO2, EtOAc:hexane 1:6) afforded 4-di-tert-butyloxycarbonylamino-5-bromo-6-phenylfuro-[2,3-d]pyrimidine (2.39 g, 4.34 mmol) as an off-white powder.

reactant | 2-amino-3-cyano-5-phenylfuran | 49.8 mmol, 9.18 g | NC=1OC(=CC1C#N)C1=CC=CC=C1 | C11H8N2O
reactant | water | 250 mL | O | H2O
reactant | formamide | C(=O)N | CH3NO
product | 4-amino-6-phenylfuro-[2,3-d]pyrimidine | 11.0 g | NC=1C2=C(N=CN1)OC(=C2)C2=CC=CC=C2 | C12H9N3O
